2149-05-07 06:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2149-5-6**] 08:00 PM
 MULTI LUMEN - START [**2149-5-6**] 09:13 PM
   Allergies:
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Gentamicin - [**2149-5-6**] 11:40 PM
   Piperacillin - [**2149-5-7**] 02:00 AM
   Vancomycin - [**2149-5-7**] 02:56 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2149-5-6**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-7**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 84 (84 - 122) bpm
   BP: 85/57(69) {80/54(64) - 167/97(126)} mmHg
   RR: 19 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (15 - 20)mmHg
   Mixed Venous O2% Sat: 98 - 98
   Total In:
                                                                  6,442 mL
                                                                    904 mL
   PO:
   TF:
   IVF:
                                                                  6,442 mL
                                                                    904 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    360 mL
   Urine:
                                                                    940 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,502 mL
                                                                    544 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 20 cmH2O
   Plateau: 13 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/36/139/17/-7
   Ve: 7.9 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   353 K/uL
   10.1 g/dL
   131 mg/dL
   1.0 mg/dL
   17 mEq/L
   5.1 mEq/L
   16 mg/dL
   107 mEq/L
   136 mEq/L
   29.4 %
   55.9 K/uL
        [image002.jpg]
                             [**2149-5-6**]  10:00 PM
                             [**2149-5-6**]  10:43 PM
                             [**2149-5-6**]  11:51 PM
                             [**2149-5-7**]  04:47 AM
                             [**2149-5-7**]  05:09 AM
   WBC
   44.5
   55.9
   Hct
   29.5
   29.4
   Plt
   336
   353
   Cr
   0.9
   1.0
   TCO2
   17
   17
   19
   Glucose
   122
   131
   Other labs: PT / PTT / INR:19.5/36.2/1.8, ALT / AST:102/99, Alk Phos /
   T Bili:239/6.2, Amylase / Lipase:13/7, Lactic Acid:2.8 mmol/L,
   Albumin:2.6 g/dL, LDH:210 IU/L, Ca++:8.5 mg/dL, Mg++:1.5 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5261**] is a 61yo F w/hx of recently diagnosed pancreatic
   cancer metastatic to the liver who presents with fever, jaundice and
   pain for the last 2 days.
   .
   #. Hypotension: Appearance is most consistent with a septic picture
   with fever, markedly elevated WBC, warm extremities and shock. Most
   likely source is ascending cholangitis due to obstructed pancreatic
   stent. It is unclear if new liver lesions are aggressive mets vs.
   abscess. However, given previous bacteremia and ? new liver lesions,
   must consider endocarditis with septic emboli Will institute early goal
   directed therapy.
   -Aggressive IVF with goal CVP 8-10
   -Pressors as needed, with change to levophed and add vasopressin if
   needed
   -Trend Lactate
   -Check mixed venous 02 sat and HCT, if <70 transfuse to HCT>30 and if
   still low, consider starting dopamine.
   -Antibiotics with vanc/zosyn, which should cover her previous
   enterococcus, however, given less effective MIC for zosyn, will add on
   synergistic gentamicin
   -Will hold on surgery or IR for ? abscess vs. mets in liver. If they
   are abscesses they may drain with clearance of the obstruction.
   However, if persistent septic, will consider more aggressive treatment
   but must discuss with family.
   -F/U blood cx
   -Consider TTE in am
   .
   #. Malignancy - Presumptive pancreatic cancer, but unclear if
   metastatic to the liver vs. abscess.
   -Will discuss further options with primary oncologist ([**Doctor First Name 1182**] [**Doctor Last Name 1183**]) in
   am.
   .
   #. Gerd - Continue PPI and ranitidine.
   .
   #. FEN -  NPO
   .
   #. Access - PIV. RIJ. L A-line
   .
   #. PPx -
   -DVT ppx with pneumoboots
   -Bowel regimen colace/senna
   -Pain management fentanyl drip
   .
   #. Code - Full code
   .
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-5-6**] 08:26 PM
   18 Gauge - [**2149-5-6**] 08:30 PM
   Multi Lumen - [**2149-5-6**] 09:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-05-07 09:23:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated following ERCP.
   Central access established, received iv fluid boluses.
   Vasopressors increased, now on Levophed and vasopressin.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Gentamicin - [**2149-5-6**] 11:40 PM
   Piperacillin - [**2149-5-7**] 02:00 AM
   Vancomycin - [**2149-5-7**] 02:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-5-7**] 08:31 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2149-5-6**] 08:25 PM
   Ranitidine (Prophylaxis) - [**2149-5-7**] 07:48 AM
   Omeprazole (Prilosec) - [**2149-5-7**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-5-7**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 85 (84 - 122) bpm
   BP: 88/59(71) {80/54(64) - 167/97(126)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 16 (15 - 20)mmHg
   Mixed Venous O2% Sat: 98 - 98
   Total In:
                                                                  6,442 mL
                                                                  1,272 mL
   PO:
   TF:
   IVF:
                                                                  6,442 mL
                                                                  1,152 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    500 mL
   Urine:
                                                                    940 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,502 mL
                                                                    772 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/36/139/17/-7
   Ve: 7.8 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic, Chronically
   ill appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   353 K/uL
   131 mg/dL
   1.0 mg/dL
   17 mEq/L
   5.1 mEq/L
   16 mg/dL
   107 mEq/L
   136 mEq/L
   29.4 %
   55.9 K/uL
        [image002.jpg]
                             [**2149-5-6**]  10:00 PM
                             [**2149-5-6**]  10:43 PM
                             [**2149-5-6**]  11:51 PM
                             [**2149-5-7**]  04:47 AM
                             [**2149-5-7**]  05:09 AM
   WBC
   44.5
   55.9
   Hct
   29.5
   29.4
   Plt
   336
   353
   Cr
   0.9
   1.0
   TCO2
   17
   17
   19
   Glucose
   122
   131
   Other labs: PT / PTT / INR:19.5/36.2/1.8, ALT / AST:102/99, Alk Phos /
   T Bili:239/6.2, Amylase / Lipase:13/7, Lactic Acid:2.8 mmol/L,
   Albumin:2.6 g/dL, LDH:210 IU/L, Ca++:8.5 mg/dL, Mg++:1.5 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   Pancreatic CA, now with cholangitis and sepsis, s/p ERCP.
   RESPIRATORY FAILURE -- persistent following ERCP.  Radiographic
   evidence for evolving RLL infiltrate (probable aspirtaion).  Monitor on
   mechanical ventilation.  Monitor CXR.  Hope to work towards SBT as wean
   vasopressors, wean sedation, and if CXR does not evolve.  Monitor ABG.
   HYPOTENSION -- attributed to sepsis and hypovolemia.  No evidence for
   cardiac event, pulmonary embolism, GI bleed.   Improved on current
   regimen.
   CHOLANGITIS -- obstruction, s/p prior plastic stent --> now removed and
   replaced with larger caliber metal stent last PM, with good drainage.
   Monitor VS, LFTs.  Monitor amylase/lipase.
   SEPSIS -- likely cholangitis.  High likelihood for recurrent
   Enterococcal infection (recent bacteremia).  Continue to support.
   MULTIPLE LIVER LESIONS -- new abscesses vs. metastatic malignancy.
   Monitor LFTs, will require re-imaging to assess interval change
   following treatment of infection.
   HYPOKALEMIA -- resolved.  Monitor, maintain >4.0
   FLUIDS -- hypovolemia.  Now replete to CVP >12 cmH2O
   RENAL FUNCTION  -- preserved.  Monitor urine output, BUN, creat.
   LACTIC ACIDOSIS -- improving.  Monitor.
   WBC elevation -- marked increase.  Attributed to infection.  Monitor.
   NEUROLOGICAL -- sedated currently.  HOpe to be able to taper sedation.
   NUTRITIONAL SUPPORT -- start TF if remains intubated.
   PANCREATIC CA -- no immediate plans for chemotherapy while septic.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-5-6**] 08:26 PM
   18 Gauge - [**2149-5-6**] 08:30 PM
   Multi Lumen - [**2149-5-6**] 09:13 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-05-08 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   61 yo F w/ cholangitis s/p stenting w/ septic shock
   24 Hour Events:
   -lightened sedation
   -Successful on pressure support
   -Got PO vit K
   Allergies:
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Gentamicin - [**2149-5-6**] 11:40 PM
   Piperacillin - [**2149-5-7**] 02:00 AM
   Vancomycin - [**2149-5-7**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2149-5-8**] 12:07 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2149-5-7**] 07:48 AM
   Ranitidine (Prophylaxis) - [**2149-5-7**] 07:48 AM
   Heparin Sodium (Prophylaxis) - [**2149-5-8**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-8**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 82 (69 - 94) bpm
   BP: 103/55(75) {79/47(60) - 129/76(95)} mmHg
   RR: 24 (17 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 4 (4 - 19)mmHg
   Total In:
                                                                  2,426 mL
                                                                    301 mL
   PO:
   TF:
   IVF:
                                                                  2,266 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                  1,130 mL
   Urine:
                                                                  1,465 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    961 mL
                                                                   -829 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 430 (430 - 440) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/36/115/22/0
   Ve: 9 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Gen: arousable, open eyes to commands but sleepy, able to squeeze my
   hand, pupils reactive, jaundice
   Cardiac: rrr n s1/s2 no m/rg
   Pulm: crackles RLL
   Abd: tender in entire R abd, slightly worse in RUQ, no rebound, +bs
   Extremities: Radial pulse +2, DP pulse +1, 1+ LE edema
   Labs / Radiology
   227 K/uL
   9.3 g/dL
   103 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.5 mEq/L
   11 mg/dL
   110 mEq/L
   138 mEq/L
   27.8 %
   33.8 K/uL
        [image002.jpg] vanc trough 12.9  ca 8.2 mg 2.2 ph 1.5
   C diff neg x1, blood cx pending, urine cx neg
   Lactate 2.8 -> 1.9 -> 1
   ALT 94
   AST 72
   AP 209
   Tb 3.6
                             [**2149-5-6**]  10:00 PM
                             [**2149-5-6**]  10:43 PM
                             [**2149-5-6**]  11:51 PM
                             [**2149-5-7**]  04:47 AM
                             [**2149-5-7**]  05:09 AM
                             [**2149-5-7**]  09:58 AM
                             [**2149-5-7**]  02:41 PM
                             [**2149-5-7**]  02:59 PM
                             [**2149-5-8**]  04:41 AM
                             [**2149-5-8**]  05:03 AM
   WBC
   44.5
   55.9
   33.8
   Hct
   29.5
   29.4
   27.8
   Plt
   [**Telephone/Fax (3) 5298**]
   Cr
   0.9
   1.0
   0.9
   0.7
   TCO2
   17
   17
   19
   20
   20
   24
   Glucose
   122
   131
   130
   103
   Other labs: PT / PTT / INR:19.5/36.2/1.8, ALT / AST:94/72, Alk Phos / T
   Bili:209/3.6, Amylase / Lipase:13/7, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:154 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:1.5
   mg/dL
   Assessment and Plan
   61 yo F w/ cholangitis s/p stenting w/ septic shock
   .
   #. : Septic shock: Improving slightly with decreasing need for levo.
   Lactate now normal. Weaned off vasopressin yesterday.
   -Aggressive IVF with goal CVP 8-10, no further fluid recussitation need
   for now.  Will check I/Os later and reaccess volume status will bolus
   vs give lasix depending on status.
   -continue to wean pressor only on minimal levophed now, keep MAP >65
   -Antibiotics with vanc/zosyn (vanco trough 12.9 will recheck prior to
   evening dose), which should cover her previous enterococcus, pt doing
   well off gent
   -f/u blood cx
   .
   #Ventilator: Pt. had no respiratory distress, so should be able to wean
   from vent as soon.  Good cough and minimal secretions.
   -Lighten sedation and then extubate pt did well on pressure support and
   good RSBI
   .
   #Sedation
   -stop sedation this AM prior to extubation
   .
   #. Liver lesions - Presumptive pancreatic cancer mets, but could be
   abscesses spreading through biliary tree.
   .
   #. Gerd - Continue PPI and ranitidine.
   .
   #. FEN -  NPO
   .
   #. Access - PIV. RIJ. L A-line
   .
   #. PPx -
   -DVT ppx with subQ heparin
   -Hold bowel reg while NPO
   -Pain management fentanyl drip
   .
   #. Code - Full code
   .
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-5-6**] 08:26 PM
   18 Gauge - [**2149-5-6**] 08:30 PM
   Multi Lumen - [**2149-5-6**] 09:13 PM
   Arterial Line - [**2149-5-7**] 07:00 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Above labs should read calcium 12.9 magnesium 2.2 and phosphate 1.5
   ------ Protected Section Addendum Entered By:[**Name (NI) 299**] [**Last Name (NamePattern1) 5309**], MD
   on:[**2149-5-8**] 16:13 ------

2149-05-08 11:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Vasopressin off.  Weaning Levophed.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, mechanical ventilation
   Allergies:
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Gentamicin - [**2149-5-6**] 11:40 PM
   Piperacillin - [**2149-5-7**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-5-8**] 08:00 AM
   Vancomycin - [**2149-5-8**] 09:56 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-5-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-31**] Minimal
   Pain location: abdomen, diffuse
   Flowsheet Data as of  [**2149-5-8**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36
C (96.8
   HR: 101 (69 - 101) bpm
   BP: 90/49(65) {80/47(60) - 129/76(95)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
   CVP: 2 (2 - 19)mmHg
   Total In:
                                                                  2,426 mL
                                                                    963 mL
   PO:
   TF:
   IVF:
                                                                  2,266 mL
                                                                    753 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                  1,585 mL
   Urine:
                                                                  1,465 mL
                                                                  1,585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    961 mL
                                                                   -622 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 440 (430 - 440) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/36/115/22/0
   Ve: 9 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   227 K/uL
   103 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.5 mEq/L
   11 mg/dL
   110 mEq/L
   138 mEq/L
   27.8 %
   33.8 K/uL
        [image002.jpg]
                             [**2149-5-6**]  10:00 PM
                             [**2149-5-6**]  10:43 PM
                             [**2149-5-6**]  11:51 PM
                             [**2149-5-7**]  04:47 AM
                             [**2149-5-7**]  05:09 AM
                             [**2149-5-7**]  09:58 AM
                             [**2149-5-7**]  02:41 PM
                             [**2149-5-7**]  02:59 PM
                             [**2149-5-8**]  04:41 AM
                             [**2149-5-8**]  05:03 AM
   WBC
   44.5
   55.9
   33.8
   Hct
   29.5
   29.4
   27.8
   Plt
   [**Telephone/Fax (3) 5298**]
   Cr
   0.9
   1.0
   0.9
   0.7
   TCO2
   17
   17
   19
   20
   20
   24
   Glucose
   122
   131
   130
   103
   Other labs: PT / PTT / INR:19.5/36.2/1.8, ALT / AST:94/72, Alk Phos / T
   Bili:209/3.6, Amylase / Lipase:13/7, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:154 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:1.5
   mg/dL
   Assessment and Plan
   Pancreatic CA, now with cholangitis and sepsis, s/p ERCP.
   RESPIRATORY FAILURE -- persistent following ERCP.  Radiographic
   evidence for evolving RLL infiltrate (probable aspirtaion).  Monitor on
   mechanical ventilation.  Monitor CXR.  Hope to work towards SBT as wean
   vasopressors, wean sedation, and if CXR does not evolve.  Monitor ABG.
   HYPOTENSION -- attributed to sepsis and hypovolemia.  No evidence for
   cardiac event, pulmonary embolism, GI bleed.   Improved on current
   regimen, continue to wean vasopressor.
   CHOLANGITIS -- obstruction, s/p prior plastic stent --> now removed and
   replaced with larger caliber metal stent last PM, with good drainage.
   Monitor VS, LFTs.  Monitor amylase/lipase.
   SEPSIS -- likely cholangitis.  High likelihood for recurrent
   Enterococcal infection (recent bacteremia).  Continue to support.
   MULTIPLE LIVER LESIONS -- new abscesses vs. metastatic malignancy.
   Monitor LFTs, will require re-imaging to assess interval change
   following treatment of infection.
   HYPOKALEMIA -- resolved.  Monitor, maintain >4.0
   FLUIDS -- hypovolemia --> repleted to CVP >12 cmH2O.  Monitor I/O.
   RENAL FUNCTION  -- preserved.  Monitor urine output, BUN, creat.
   LACTIC ACIDOSIS -- improved.  Monitor.
   WBC elevation -- marked increase.  Attributed to infection.  Monitor.
   NEUROLOGICAL -- sedated currently.  HOpe to be able to taper sedation.
   NUTRITIONAL SUPPORT -- start TF if remains intubated --> hold.
   PANCREATIC CA -- no immediate plans for chemotherapy while septic.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-5-6**] 08:26 PM
   18 Gauge - [**2149-5-6**] 08:30 PM
   Multi Lumen - [**2149-5-6**] 09:13 PM
   Arterial Line - [**2149-5-7**] 07:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-05-09 06:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -d/c sedation
   -extubated, off pressors
   -was neg approx 1L and goal was 1L neg
   -called family and redid ICU consent
   -subtherapeutic vanco trough, increased to 1250 PO BID
   -f/u AM vanco trough
   Allergies:
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Gentamicin - [**2149-5-6**] 11:40 PM
   Piperacillin/Tazobactam (Zosyn) - [**2149-5-8**] 08:00 AM
   Vancomycin - [**2149-5-8**] 08:06 PM
   Piperacillin - [**2149-5-8**] 11:46 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2149-5-8**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2149-5-8**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-9**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 92 (83 - 101) bpm
   BP: 129/75(98) {90/45(63) - 129/75(98)} mmHg
   RR: 26 (19 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 7 (1 - 7)mmHg
   Total In:
                                                                  2,489 mL
                                                                      6 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                  2,169 mL
                                                                      6 mL
   Blood products:
   Total out:
                                                                  3,225 mL
                                                                  1,035 mL
   Urine:
                                                                  3,225 mL
                                                                  1,035 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -736 mL
                                                                 -1,029 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 350 (350 - 440) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.45/35/149/25/1
   Ve: 6 L/min
   PaO2 / FiO2: 373
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   224 K/uL
   8.8 g/dL
   94 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   6 mg/dL
   111 mEq/L
   142 mEq/L
   26.0 %
   18.7 K/uL
        [image002.jpg]
                             [**2149-5-6**]  11:51 PM
                             [**2149-5-7**]  04:47 AM
                             [**2149-5-7**]  05:09 AM
                             [**2149-5-7**]  09:58 AM
                             [**2149-5-7**]  02:41 PM
                             [**2149-5-7**]  02:59 PM
                             [**2149-5-8**]  04:41 AM
                             [**2149-5-8**]  05:03 AM
                             [**2149-5-8**]  04:10 PM
                             [**2149-5-9**]  04:08 AM
   WBC
   55.9
   33.8
   18.7
   Hct
   29.4
   27.8
   26.0
   Plt
   353
   227
   224
   Cr
   1.0
   0.9
   0.7
   0.7
   TCO2
   17
   19
   20
   20
   24
   25
   Glucose
   131
   130
   103
   94
   Other labs: PT / PTT / INR:19.5/36.2/1.8, ALT / AST:94/72, Alk Phos / T
   Bili:209/3.6, Amylase / Lipase:13/7, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:154 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   61 yo F w/ cholangitis s/p stenting w/ septic shock
   .
   #. : Septic shock: Improving slightly with decreasing need for levo.
   Lactate now normal. Weaned off vasopressin yesterday.
   -Aggressive IVF with goal CVP 8-10, no further fluid recussitation need
   for now.  Will check I/Os later and reaccess volume status will bolus
   vs give lasix depending on status.
   -continue to wean pressor only on minimal levophed now, keep MAP >65
   -Antibiotics with vanc/zosyn (vanco trough 12.9 will recheck prior to
   evening dose), which should cover her previous enterococcus, pt doing
   well off gent
   -f/u blood cx
   .
   #Ventilator: Pt. had no respiratory distress, so should be able to wean
   from vent as soon.  Good cough and minimal secretions.
   -Lighten sedation and then extubate pt did well on pressure support and
   good RSBI
   .
   #Sedation
   -stop sedation this AM prior to extubation
   .
   #. Liver lesions - Presumptive pancreatic cancer mets, but could be
   abscesses spreading through biliary tree.
   .
   #. Gerd - Continue PPI and ranitidine.
   .
   #. FEN -  NPO
   .
   #. Access - PIV. RIJ. L A-line
   .
   #. PPx -
   -DVT ppx with subQ heparin
   -Hold bowel reg while NPO
   -Pain management fentanyl drip
   .
   #. Code - Full code
   .
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-5-6**] 08:26 PM
   18 Gauge - [**2149-5-6**] 08:30 PM
   Multi Lumen - [**2149-5-6**] 09:13 PM
   Arterial Line - [**2149-5-7**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-05-09 12:32:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday afternoon, remains extubated.
   Now off vasopressors.
   Emotionally withdrawn.  Appropriate.
   Allergies:
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Gentamicin - [**2149-5-6**] 11:40 PM
   Piperacillin/Tazobactam (Zosyn) - [**2149-5-8**] 08:00 AM
   Piperacillin - [**2149-5-9**] 08:00 AM
   Vancomycin - [**2149-5-9**] 09:41 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-5-8**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-31**] Minimal
   Pain location: abdominal, diffuse
   Flowsheet Data as of  [**2149-5-9**] 12:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96.1
   HR: 88 (83 - 101) bpm
   BP: 142/79(105) {91/45(63) - 142/80(105)} mmHg
   RR: 26 (22 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 4 (1 - 7)mmHg
   Total In:
                                                                  2,489 mL
                                                                    523 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                  2,169 mL
                                                                    523 mL
   Blood products:
   Total out:
                                                                  3,225 mL
                                                                  1,735 mL
   Urine:
                                                                  3,225 mL
                                                                  1,735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -736 mL
                                                                 -1,212 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 40%
   SpO2: 99%
   ABG: 7.45/35/149/25/1
   PaO2 / FiO2: 373
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic,
   chronically ill appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   224 K/uL
   94 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   6 mg/dL
   111 mEq/L
   142 mEq/L
   26.0 %
   18.7 K/uL
        [image002.jpg]
                             [**2149-5-6**]  11:51 PM
                             [**2149-5-7**]  04:47 AM
                             [**2149-5-7**]  05:09 AM
                             [**2149-5-7**]  09:58 AM
                             [**2149-5-7**]  02:41 PM
                             [**2149-5-7**]  02:59 PM
                             [**2149-5-8**]  04:41 AM
                             [**2149-5-8**]  05:03 AM
                             [**2149-5-8**]  04:10 PM
                             [**2149-5-9**]  04:08 AM
   WBC
   55.9
   33.8
   18.7
   Hct
   29.4
   27.8
   26.0
   Plt
   353
   227
   224
   Cr
   1.0
   0.9
   0.7
   0.7
   TCO2
   17
   19
   20
   20
   24
   25
   Glucose
   131
   130
   103
   94
   Other labs: PT / PTT / INR:19.5/36.2/1.8, ALT / AST:94/72, Alk Phos / T
   Bili:209/3.6, Amylase / Lipase:13/7, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:154 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   Pancreatic CA, now with cholangitis and sepsis, s/p ERCP.
   RESPIRATORY FAILURE -- improved s/p extubation.  MOnitor RR, SaO2.
   HYPOTENSION -- resolved.  Monitor BP, maintain MAP >60 mmHg.
   CHOLANGITIS -- obstruction, s/p prior plastic stent --> now removed and
   replaced with larger caliber metal stent last PM, with good drainage.
   Monitor VS, LFTs.  Monitor amylase/lipase.
   SEPSIS -- resolving.
   MULTIPLE LIVER LESIONS -- new abscesses vs. metastatic malignancy.
   Monitor LFTs, will require re-imaging to assess interval change
   following treatment of infection.
   HYPOKALEMIA -- resolved.  Monitor, maintain >4.0
   FLUIDS -- hypovolemia --> repleted to CVP >12 cmH2O.  Monitor I/O.
   RENAL FUNCTION  -- preserved.  Monitor urine output, BUN, creat.
   LACTIC ACIDOSIS -- improved.  Monitor.
   WBC elevation -- Attributed to infection, now resolving.  Monitor.
   NEUROLOGICAL -- sedated currently.  Hope to be able to taper sedation.
   NUTRITIONAL SUPPORT -- start clear liquids, monitor;  encourage
   suppliments.  COnsider TF if PO inadequate.
   PANCREATIC CA -- no immediate plans for chemotherapy while septic.
   Oncology Consultation for F/U.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-5-6**] 08:30 PM
   Multi Lumen - [**2149-5-6**] 09:13 PM
   Arterial Line - [**2149-5-7**] 07:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-05-10 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  61 yo F w/ cholangitis s/p stenting w/ septic shock
   24 Hour Events:
   PT consulted
   Given vitamin K
   PICC ordered
   Aline d/c'd
   Allergies:
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-5-8**] 08:00 AM
   Vancomycin - [**2149-5-9**] 08:29 PM
   Piperacillin - [**2149-5-10**] 12:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-5-10**] 12:09 AM
   Morphine Sulfate - [**2149-5-10**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-10**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 85 (80 - 98) bpm
   BP: 127/76(89) {115/64(77) - 128/78(90)} mmHg
   RR: 25 (21 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 3 (2 - 5)mmHg
   Total In:
                                                                  1,660 mL
                                                                    170 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    745 mL
   Urine:
                                                                  2,550 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -890 mL
                                                                   -575 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   GeN: A/O to person, hospital and month. Appears very depressed
   HEENT: Dry MM, marked icterus
   Heart: RRR, no MRG
   Lungs: CTAB
   Abd: mildly tender diffusely, BS+, no rebound, no guarding
   Ext: Trace pitting edema
   Labs / Radiology
   218 K/uL
   9.3 g/dL
   111 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   6 mg/dL
   106 mEq/L
   141 mEq/L
   27.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2149-5-7**]  04:47 AM
                             [**2149-5-7**]  05:09 AM
                             [**2149-5-7**]  09:58 AM
                             [**2149-5-7**]  02:41 PM
                             [**2149-5-7**]  02:59 PM
                             [**2149-5-8**]  04:41 AM
                             [**2149-5-8**]  05:03 AM
                             [**2149-5-8**]  04:10 PM
                             [**2149-5-9**]  04:08 AM
                             [**2149-5-10**]  04:42 AM
   WBC
   55.9
   33.8
   18.7
   12.4
   Hct
   29.4
   27.8
   26.0
   27.8
   Plt
   353
   227
   224
   218
   Cr
   1.0
   0.9
   0.7
   0.7
   0.7
   TCO2
   19
   20
   20
   24
   25
   Glucose
   131
   130
   103
   94
   111
   Other labs: PT / PTT / INR:19.5/36.2/1.8, ALT / AST:94/72, Alk Phos / T
   Bili:209/3.6, Amylase / Lipase:13/7, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:154 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   61 yo F w/ cholangitis s/p stenting w/ septic shock
   .
   #. : Septic shock: weaned off of pressors yesterday, BP normal. No
   longer septic physiology. Blood cultures remain negative
   -Antibiotics with vanc/zosyn, vanc dose increased and now therapeutic
   trough treat for 14 day course
   -f/u blood cx
   .
   #Ventilator: Pt. extubated yesterday, breathing comfortably.
   - follow for signs of airway edema
   .
   #Lethargy: Likely long washout of sedation vs. depression
   - SW consult for coping
   - PT consult
   .
   #. Liver lesions - Presumptive pancreatic cancer mets, but could be
   abscesses spreading through biliary tree.
   - continue Abx, discuss w/ primary oncologist
   .
   #. Gerd - Continue PPI and ranitidine.
   .
   #. FEN -  Clear liquids advance as tolerated
   .
   #. Access - PIV. RIJ. L A-line
   .
   #. PPx -
   -DVT ppx with subQ heparin
   -Hold bowel reg while NPO
   -Pain management fentanyl drip
   .
   #. Code - Full code
   .
   #. Dispo - ICU for now, consider call out tomorrow if remains stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-5-6**] 08:30 PM
   Multi Lumen - [**2149-5-6**] 09:13 PM
   Arterial Line - [**2149-5-7**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-05-10 13:07:00 Physician Attending Progress Note
Chief Complaint: abdominal pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo f with met pancreatitic Cancer admitted with cholangitis s/p ERCP
   Extubated 2 days ago, off pressors
   24 Hour Events:
   A-line dc'd
                                  History obtained from [**Hospital 31**] Medical records
   Allergies:
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-5-8**] 08:00 AM
   Piperacillin - [**2149-5-10**] 08:03 AM
   Vancomycin - [**2149-5-10**] 08:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2149-5-10**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2149-5-10**] 08:00 AM
   Ranitidine (Prophylaxis) - [**2149-5-10**] 08:00 AM
   Lansoprazole (Prevacid) - [**2149-5-10**] 08:30 AM
   Other medications:
   nicotine patch, senna, colace, lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-10**] 12:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 92 (77 - 98) bpm
   BP: 121/76(87) {115/64(77) - 128/78(90)} mmHg
   RR: 24 (20 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 3 (2 - 4)mmHg
   Total In:
                                                                  1,660 mL
                                                                    578 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                  1,465 mL
   Urine:
                                                                  2,550 mL
                                                                  1,465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -890 mL
                                                                   -887 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, jaundice
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, sclera icterus
   Head, Ears, Nose, Throat: Normocephalic, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (+DP pulses
   Respiratory / Chest: (Expansion: Symmetric), clear BS without
   wheezes/rales
   Abdominal: Soft, Tender: , mild epigastric tenderness without
   guarding/rebound, hypoactive bs
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: voice,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   218 K/uL
   111 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   6 mg/dL
   106 mEq/L
   141 mEq/L
   27.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2149-5-7**]  04:47 AM
                             [**2149-5-7**]  05:09 AM
                             [**2149-5-7**]  09:58 AM
                             [**2149-5-7**]  02:41 PM
                             [**2149-5-7**]  02:59 PM
                             [**2149-5-8**]  04:41 AM
                             [**2149-5-8**]  05:03 AM
                             [**2149-5-8**]  04:10 PM
                             [**2149-5-9**]  04:08 AM
                             [**2149-5-10**]  04:42 AM
   WBC
   55.9
   33.8
   18.7
   12.4
   Hct
   29.4
   27.8
   26.0
   27.8
   Plt
   353
   227
   224
   218
   Cr
   1.0
   0.9
   0.7
   0.7
   0.7
   TCO2
   19
   20
   20
   24
   25
   Glucose
   131
   130
   103
   94
   111
   Other labs: PT / PTT / INR:19.5/36.2/1.8, ALT / AST:94/72, Alk Phos / T
   Bili:209/3.6, Amylase / Lipase:13/7, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:154 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Microbiology: CDiff negative x 3
   Blood cultures negative
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CHOLANGITIS
 CANCER (MALIGNANT NEOPLASM), PANCREAS
   61 yo female with metastatic pancreatic cancer admitted with
   cholangitis, intiially with septic shock and respiratory failure-
   improved with decreasing leukocytosis, resolving acidosis, extubated
   and off pressors
   *Continue Vanco/zosyn for 14 day course
   *PICC attempted; however, pt refusing- continue CVL access for now
   *On clears, will advance diet as tolerated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-5-6**] 08:30 PM
   Multi Lumen - [**2149-5-6**] 09:13 PM
   Arterial Line - [**2149-5-7**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: